US04151302
A solution of 23.2 g. of 4-acetyl-2',4'-difluorobiphenyl in 50 ml. of THF and 50 ml. of ether is added slowly dropwise to a solution of 17.5 g. of ethoxyethinylmagnesium bromide in 200 ml. of ether, prepared by reacting ethoxyacetylene with ethyl magnesium bromide. The mixture is stirred for 1 hour at 20°. The reaction product is hydrolyzed with ice water/ammonium chloride and extracted with ether. The combined ether extracts are dried over MgSO4 and evaporated. Residual 1-ethoxy-3-(2',4'-difluoro-4-biphenylyl)-butyn-3-ol is dissolved in 200 ml. of 95% ethanol and 0.05 g. of solid CO2 is added to the solution and the mixture is left to stand for 12 hours at 20°. The customary work up gives 3-(2',4'-difluoro-4-biphenylyl)-2-butenoic acid ethyl ester, m.p. 54°-56°.

reactant | 4-acetyl-2',4'-difluorobiphenyl | C(C)(=O)C1=CC=C(C=C1)C1=C(C=C(C=C1)F)F | C14H10F2O
reactant | ethoxyethinylmagnesium bromide | C(C)OC#C[Mg]Br
reactant | ethoxyacetylene | C(C)OC#C | C4H6O
reactant | ethyl magnesium bromide | C(C)[Mg]Br
solvent | ether | CCOCC | C4H10O
solvent | THF | C1CCOC1 | C4H8O
product | 3-(2',4'-difluoro-4-biphenylyl)-2-butenoic acid ethyl ester | C(C)OC(C=C(C)C1=CC=C(C=C1)C1=C(C=C(C=C1)F)F)=O | C18H16F2O2
